US05550240
Preparation of 1-[2,4-bis(1,1-dimethylethylamino)-6-pyrimidinyl]-hexahydro-1H-1,4-diazepine
By reacting 4-chloro-2,6-bis(1,1-dimethylethylamino)-pyrimidine with hexahydro-1H-1,4-diazepine as described in Example 4, the title product is obtained in a yield of 55.3%, m.p.: 127°-132° C.

reactant | 4-chloro-2,6-bis(1,1-dimethylethylamino)-pyrimidine | ClC1=NC(=NC(=C1)NC(C)(C)C)NC(C)(C)C | C12H21ClN4
reactant | hexahydro-1H-1,4-diazepine | N1CCNCCC1 | C5H12N2
product | 1-[2,4-bis(1,1-dimethylethylamino)-6-pyrimidinyl]-hexahydro-1H-1,4-diazepine | yield of 55.3% | CC(C)(C)NC1=NC(=CC(=N1)NC(C)(C)C)N1CCNCCC1 | C17H32N6
